US06245804B1
400 mg of 4-toluenesulfonic acid-(2-hydroxy-4-phenyl-2-trifluoromethyl-pentyl)ester in 5 ml of dimethylformamide is mixed at 0° C. with 35 mg of sodium hydride (80% in mineral oil). After one hour at 0° C., it is diluted with water and extracted with dichloromethane. The dichloromethane phase is washed with water, dried (Na2SO4) and concentrated by evaporation. The residue is distilled. 200 mg of 2-(2-phenylpropyl)-2-trifluoromethyl-oxiran, boiling point 110° C./1 hPa, is obtained.

reactant | 4-toluenesulfonic acid-(2-hydroxy-4-phenyl-2-trifluoromethyl-pentyl)ester | 400 mg | OC(COS(=O)(=O)C1=CC=C(C=C1)C)(CC(C)C1=CC=CC=C1)C(F)(F)F | C19H21F3O4S
reactant | sodium hydride | 35 mg | [H-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(2-phenylpropyl)-2-trifluoromethyl-oxiran | 200 mg | C1(=CC=CC=C1)C(CC1(OC1)C(F)(F)F)C | C12H13F3O
